Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]([H:10])[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11],-7.462206911060001
[C:14]([H:15])([H:16])[H:17].[H:1][C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.54759435437
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.01015193973
[H:1][O:2][C:3]([O:4][C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]=[C:10]([H:11])[H:12].[O:4]=[C:5][C:6]([H:7])([H:8])[H:9],1.15321528183
[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.12496692135
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[C:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9],4.50210943888
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:2](#[C:3][H:4])[O:5][C:6]([H:7])([H:8])[H:9].[O:1],3.67625048155
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.8493238413070001
[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-7.676727029260001
[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.82717565787
[C:1]#[C:2][C@@:4]([O:3])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.58941945586
[H:1][C:2]#[C:3][C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],1.6029089203600002
[C:5]#[C:6][O:7][H:8].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]#[C:6][O:7][H:8],-2.6025280174
[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.13155569051
[O:1]=[C:2]=[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2][C:3],3.83130022492
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7])[C:9](=[O:8])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[C:7]2[O:8][C@:9]12[H:10],0.5313787986999999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:10]([H:11])([H:12])[H:13],1.47548334415
[H:1][C:2]([H:3])=[C:4][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.1516604515200002
[C:4]([O:5][H:6])=[C:7]([H:8])[H:9].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-4.98395812438
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],0.999708883835
[C:1][O:2][C:3]#[C:4][O:5][H:6]>>[C:1]=[O:2].[C:3]#[C:4][O:5][H:6],-1.29408333734
[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6][C:7]1([H:8])[H:9]>>[O:1]=[C:2][C:7]([C:6][O:5][C:3][H:4])([H:8])[H:9],4.36177955991
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.02817052961
[H:1][O:2][C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][O:2][C:3]#[C:4][C:5][O:6][C:7]([H:8])[H:9],4.56546314472
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.80960179732
[H:1][O:2][C:3](=[C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:5]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-3.12491343867
[C:1]#[C:2][O:3][H:4].[O:5][C:6][C:7]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:7],0.4261969547399999
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2](=[O:3])[C:12]([H:13])([H:14])[H:15],0.612554359728
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],1.91884332456
